US07858640B2
2-(4-fluorobenzyl)-3-oxopentanoic Acid Ethyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-4-fluorobenzene and 3-oxopentanoic acid ethyl ester.

reactant | 1-bromomethyl-4-fluorobenzene | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | 3-oxopentanoic acid ethyl ester | C(C)OC(CC(CC)=O)=O | C7H12O3
product | 2-(4-fluorobenzyl)-3-oxopentanoic Acid Ethyl Ester | C(C)OC(C(C(CC)=O)CC1=CC=C(C=C1)F)=O | C14H17FO3
